US07906517B2
To tert-butyl 4-{2-[(3,5-bis-trifluoromethyl-phenyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butyrate (197 mg) is added a 4N-hydrochloric acid in dioxane (2.5 ml) and the mixture is stirred at room temperature for 3 hours. To the reaction mixture is added a saturated brine, and the mixture is extracted with ethyl acetate, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (chloroform:methanol=1:0→19:1) to give 4-{2-[(3,5-bis-trifluoromethyl-phenyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butyric acid (104 mg). MS (m/z): 716 [M+H]+

reactant | tert-butyl 4-{2-[(3,5-bis-trifluoromethyl-phenyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butyrate | 197 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)N(C1=NC=C(C=N1)OCCCC(=O)OC(C)(C)C)CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)(F)F | C38H38F9N3O4
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 2.5 ml | O1CCOCC1 | C4H8O2
solvent | brine | [Cl-].[Na+].O
product | 4-{2-[(3,5-bis-trifluoromethyl-phenyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butyric acid | 104 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)N(C1=NC=C(C=N1)OCCCC(=O)O)CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)(F)F | C34H30F9N3O4
